US06599917B1
h) 4-Benzyl-5-bromo-2-pyridyl Trifluoromethanesulfonate
100 g of N-phenyltrifluoromethanesulfonimide was added to a suspension of 200 ml of dichloromethane containing 59 g of 4-benzyl-5-bromo-2-hydroxypyridine, 100 ml of triethylamine and 8 g of 4-dimethylaminopyridine little by little. After stirring at room temperature for 7 hours, the reaction solution was evaporated. The residue was subjected to silica gel column chromatography using 5-10% ethyl acetate/hexane, to give 82 g of the target compound.

reactant | N-phenyltrifluoromethanesulfonimide | 100 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | dichloromethane | 200 ml, 59 g | ClCCl | CH2Cl2
reactant | 4-benzyl-5-bromo-2-hydroxypyridine | C(C1=CC=CC=C1)C1=CC(=NC=C1Br)O | C12H10BrNO
catalyst | 4-dimethylaminopyridine | 8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
product | 4-Benzyl-5-bromo-2-pyridyl Trifluoromethanesulfonate | 82 g | FC(S(=O)(=O)OC1=NC=C(C(=C1)CC1=CC=CC=C1)Br)(F)F | C13H9BrF3NO3S
